* r2r_dac_step_tb.cir - full-scale step bench for r2r_dac_analog (P3
* spec bench, round 2 revision onto templates/step_settle_tb.cir; written
* from spec/spec.md, spec/spec.yaml, spec/topology.md only). Siblings:
* r2r_dac_tb.cir (static: DNL/INL/offset/gain/sensitivity/i_vdd_avg) and
* r2r_dac_glitch_tb.cir (mid-code glitches).
*
* sim_timeout_s: 600
*
* Measures (spec.yaml names): t_settle_rise, t_settle_fall, t_rise_10_90,
* t_fall_10_90, i_vdd_peak (also scored by the glitch bench: the peak
* over the two benches is the peak over every transition the spec names).
*
* WINDOW (template rule): t_win = max(5 x t_bound, 20 x tau_exp) with
* t_bound = 1.5 us (spec.yaml t_settle_rise/fall) and tau_exp = 230 ns
* (spec.md round 2: 27k x 7 pF = 189 ns at tt, +20 % rsh at ss) ->
* t_win = 7.5 us per edge. Never a fixed 100 ns window.
*
* Stimulus (edge = centre of a 100 ps input edge; all eight dac_code bits
* switch together, ideal 0/VDD sources per spec.md Interface):
*   0..t_r            code 0 (operating point first, no uic)
*   t_r = 20 ns       0 -> 255, window t_r .. t_f       (rise measures)
*   t_f = t_r+t_win   255 -> 0, window t_f .. t_stop    (fall measures)
*
* Definitions (spec.md Measures):
*   settle: from the code edge until vout last lies outside final +-
*           VDD/512 (0.5 LSB of the corner's own rail); final = vout at the
*           window end.
*   VERDICT (template): an edge counts as settled only when vout stays in
*           the band for the last 20 % of its window AND moved at least half
*           the ideal 255/256*VDD step; otherwise the bench prints
*           `t_settle_<dir> = not_settled` (a sim_not_settled finding), never
*           a number clamped to the window.
*   10-90:  first time vout passes v0 + 10 % and + 90 % of (vfinal - v0),
*           v0 = vout just before the edge. From masked vectors: a waveform
*           that never gets there scores ~1 s (fails its bound).
*
* Pad load ASSUMED (spec.md): R_pad = 100 ohm in series with C_load = 7 pF,
* one parameter each. Corners: typical FET section + res_typical
* resistor section (sim_run.RES_LIB_SECTION).

.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' typical
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' res_typical
.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice'
.include '/home/ihsan/.cc/worktrees/ece298a/r2r-dac/blocks/r2r_dac/analog/log/bench_strength/xrb5b_connection_removed__r2r_dac.cir'
.param ru_w=2e-06 ru_l=0.00015 rb_l=0.00014836

.temp 27
.param vddp=3.3
.param r_pad=100 c_load=7p
.param t_bound=1.5u tau_exp=230n nbits=8 dv_ideal='255/256*vddp'
.param t_r=20n t_win='max(5*t_bound, 20*tau_exp)'
.param t_f='t_r+t_win'
.csparam t_r={t_r}
.csparam t_f={t_f}
.csparam t_pre_r={t_r-0.1n}
.csparam t_pre_f={t_f-0.1n}
.csparam t_stop={t_f+t_win}
.csparam t_end_f={t_f+t_win-0.1n}
.csparam t_tail_r={t_r+0.8*t_win}
.csparam t_tail_f={t_f+0.8*t_win}
.csparam band={vddp/2**(nbits+1)}
.csparam dv_ideal={dv_ideal}
.csparam t_max={t_win/2000}

vdd vdd 0 {vddp}
vss vss 0 0

* --- DUT BEGIN
* dac_code[k] = b<k>, ideal 0/VDD PWL, 100 ps edges at t_r (up) and t_f (down)
vb7 b7 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb6 b6 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb5 b5 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb4 b4 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb3 b3 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb2 b2 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb1 b1 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)
vb0 b0 0 pwl(0 0 {t_r-0.05n} 0 {t_r+0.05n} {vddp} {t_f-0.05n} {vddp} {t_f+0.05n} 0)

* DUT, pins in topology.md order: dac_code[7..0] vout vdd vss
xdut b7 b6 b5 b4 b3 b2 b1 b0 vout vdd vss r2r_dac_analog

rpad vout vpad {r_pad}
cload vpad 0 {c_load}
* --- DUT END

.control
set noaskquit
save v(vout) v(vdd) i(vdd)
tran 10p $&t_stop 0 $&t_max
let vo = v(vout)
let tt = time
let ivdd = -i(vdd)

* rise: edge t_r, window t_r .. t_f
meas tran v0r find v(vout) at=$&t_pre_r
meas tran vfr find v(vout) at=$&t_pre_f
let win = (tt gt t_r) * (tt lt t_pre_f)
let outb = (abs(vo - vfr) gt band) * win
let t_last_r = vecmax(outb*tt)
let t_settle_rise = t_last_r - t_r
let c10 = (vo gt (v0r + 0.1*(vfr-v0r))) * win
let c90 = (vo gt (v0r + 0.9*(vfr-v0r))) * win
let t_rise_10_90 = vecmin(c90*tt + (1-c90)) - vecmin(c10*tt + (1-c10))

* fall: edge t_f, window t_f .. t_stop
meas tran v0f find v(vout) at=$&t_pre_f
meas tran vff find v(vout) at=$&t_end_f
let win = (tt gt t_f) * (tt le t_stop)
let outb = (abs(vo - vff) gt band) * win
let t_last_f = vecmax(outb*tt)
let t_settle_fall = t_last_f - t_f
let c10 = (vo lt (v0f - 0.1*(v0f-vff))) * win
let c90 = (vo lt (v0f - 0.9*(v0f-vff))) * win
let t_fall_10_90 = vecmin(c90*tt + (1-c90)) - vecmin(c10*tt + (1-c10))

let i_vdd_peak = vecmax(ivdd)

echo
echo "  Measurements for Transient Analysis (r2r_dac_step_tb, computed in .control)"
if (t_last_r gt t_tail_r) | (abs(vfr - v0r) lt 0.5*dv_ideal)
  echo "t_settle_rise = not_settled"
else
  echo "t_settle_rise = $&t_settle_rise"
end
if (t_last_f gt t_tail_f) | (abs(vff - v0f) lt 0.5*dv_ideal)
  echo "t_settle_fall = not_settled"
else
  echo "t_settle_fall = $&t_settle_fall"
end
echo "t_rise_10_90 = $&t_rise_10_90"
echo "t_fall_10_90 = $&t_fall_10_90"
echo "i_vdd_peak = $&i_vdd_peak"
echo
.endc

.end
